US09428528B2
Step 2 Preparation of (5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyrimidin-2-ylmethyl)-carbamic acid tert-butyl ester
To a stirred solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (0.286 g, 0.694 mmol) and (5-Chloro-pyrimidin-2-ylmethyl)-carbamic acid tert-butyl ester (0.2 g, 0.694 mmol) in isopropylalcohol:water (2:1, 6 mL) is added K2CO3 (0.287 g, 2.083 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 20 minutes followed by addition of Pd(dppf)Cl2.CH2Cl2 (0.028 g, 0.035 mmol). The resulting reaction mixture is heated to 140° C. for 20 minutes in a microwave. Solvent is evaporated in vacuo and the crude material is diluted using water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by column chromatography using Combi-flash eluting with 75% ethyl acetate in hexane to afford the title compound (0.125 g): 1H NMR (400 MHz, DMSO-d6) δ: 1.40 (s, 9H), 1.52 (s, 3H), 1.60 (s, 3H), 4.36 (d, J=6.16 Hz, 2H), 4.54-4.58 (m, 0.5H), 4.66-4.73 (m, 1H), 4.82-4.85 (m, 0.5H), 4.91-4.95 (m, 1H), 5.28 (d, J=3.52 Hz, 1H), 6.64 (t, J=52.44 Hz, 1H), 7.32 (t, J=6.04 Hz, 1H), 7.62 (d, J=8.04 Hz, 2H), 7.86 (d, J=8.04 Hz, 2H), 9.10 (s, 2H). LC-MS (m/z): [M+H]=495.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 0.694 mmol, 0.286 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | (5-Chloro-pyrimidin-2-ylmethyl)-carbamic acid tert-butyl ester | 0.694 mmol, 0.2 g | C(C)(C)(C)OC(NCC1=NC=C(C=N1)Cl)=O | C10H14ClN3O2
reactant | K2CO3 | 2.083 mmol, 0.287 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.035 mmol, 0.028 g | C(Cl)Cl | CH2Cl2
solvent | isopropylalcohol water | 6 mL | C(C)(C)O.O
product | (5-{4-[(4S,5R)-3-(2,2-Difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyrimidin-2-ylmethyl)-carbamic acid tert-butyl ester | 0.125 g | C(C)(C)(C)OC(NCC1=NC=C(C=N1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF)=O | C24H29F3N4O4
